US07348340B2
K1. [4-Amino-2-(3-chlorophenyl)-quinolin-6-yl]-carbamic acid tert-butyl ester (6-N-BOC protected)
Into a 250 mL three-neck round-bottom flask equipped with a magnetic stirrer, condenser, addition funnel, heating bath and nitrogen inlet, was added 1.5 g (5.58 mmoles, 1 equiv.) of 2-(3-chlorophenyl)-4,6-quinolinediamine, 50 ml of dry THF, and 3.9 mL (27.9 mmoles, 5 equiv.) of dry triethylamine. To this stirring mixture was then added over 30 min., 6.7 mL (6.69 mmoles, 1.2 equiv.) of di-t-butyl dicarbonate as a solution in 50 mL of THF. The mixture was then heated to reflux for 18 hr., and, at the end of this time, cooled, cautiously quenched with water and partitioned between 300 mL of ethyl acetate and 500 mL of 5% NaOH solution. The organic layer was washed with NaOH solution, dried over Na2SO4, filtered and concentrated. The residue was subjected to flash chromatography, using an eluent of 25% ethyl acetate in methylene chloride containing 0.5% triethylamine to give 1.lg (53%) of the product.

reactant | 2-(3-chlorophenyl)-4,6-quinolinediamine | 5.58 mmoles, 1.5 g, 1 equiv. | ClC=1C=C(C=CC1)C1=NC2=CC=C(C=C2C(=C1)N)N | C15H12ClN3
reactant | triethylamine | 27.9 mmoles, 3.9 mL, 5 equiv. | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 6.69 mmoles, 6.7 mL, 1.2 equiv. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | [4-Amino-2-(3-chlorophenyl)-quinolin-6-yl]-carbamic acid tert-butyl ester | 53% | C(C)(C)(C)OC(NC=1C=C2C(=CC(=NC2=CC1)C1=CC(=CC=C1)Cl)N)=O | C20H20ClN3O2
